US05446189
A mixture of 3.25 g (7.74 mmol) of 3-amino-5-(octadecyloxy)benzoic acid methyl ester, 3.7 ml (23 mmol) of benzyl bromoacetate, 4.2 g (19.4 mmol) of 1,8-bis(dimethylamino)naphthalene and 0.3 g (2.2 mmol) of sodium iodidein 65 ml of acetonitrile and 20 ml of DMF was stirred and heated at reflux under argon for 48 hours. The reaction mixture was concentrated at reducedpressure and ethyl acetate was added to the residue. The extract was washedwith 0.05N HCl, with saturated NaHCO3 solution, dried and concentratedat reduced pressure to a solid which was purified by HPLC using 15% ethyl acetate-hexane to give 2.6 g (48% yield, mp 62°-63°) of N-[3-(methoxycarbonyl)-5-(octadecyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy) ethyl]glycine phenylmethyl ester.

reactant | 3-amino-5-(octadecyloxy)benzoic acid methyl ester | 7.74 mmol, 3.25 g | COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)N)=O | C26H45NO3
reactant | benzyl bromoacetate | 23 mmol, 3.7 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | 1,8-bis(dimethylamino)naphthalene | 19.4 mmol, 4.2 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | sodium | 2.2 mmol, 0.3 g | [Na] | Na
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | 65 ml | C(C)#N | C2H3N
product | N-[3-(methoxycarbonyl)-5-(octadecyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy) ethyl]glycine phenylmethyl ester | 2.6 g, 48% yield | C1(=CC=CC=C1)COC(CN(CC(OCC1=CC=CC=C1)=O)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)C(=O)OC)=O | C44H61NO7
